US07547691B2
A stirred mixture of 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (180 mg, 0.494 mmol), 4-(3-aminopropyl)-4-ethylpiperidine-1-carboxylic acid tert-butyl ester (200 mg, 0.741 mmol) and diisopropylethylamine (128 mg, 0.988 mmol) in 1,4-dioxane (3 mL) is heated at 90° C. under nitrogen for 18 hours. At room temperature the mixture is concentrated and the crude product is chromatographed on silica gel, eluting with 3% 2 M NH3/MeOH in dichloromethane, to give 197 mg of 4-{3-[5-chloro-4-(4-cyclopropylcarbamoylbenzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-4-ethylpiperidine-1-carboxylic acid tert-butyl ester. The intermediate is then subject to deprotection by dissolving the material (197 mg, 0.329 mmol) in MeOH (25 mL) and dichloromethane (12 mL) and bubbling anhydrous hydrogen chloride gas for 5 minutes. The hot, yellow solution is allowed to sit at room temperature for 2 hours, then concentrated to give the title compound as a yellow solid (184 mg, 98% yield). ES+(m/z) 498 (35Cl) and 500 (37Cl) [M(free base)+H].

reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 0.494 mmol, 180 mg | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)Cl | C16H11Cl2N3OS
reactant | 4-(3-aminopropyl)-4-ethylpiperidine-1-carboxylic acid tert-butyl ester | 0.741 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC)CCCN | C15H30N2O2
reactant | diisopropylethylamine | 0.988 mmol, 128 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-{3-[5-chloro-4-(4-cyclopropylcarbamoylbenzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-4-ethylpiperidine-1-carboxylic acid tert-butyl ester | 197 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC)CCCNC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(NC2CC2)=O)Cl | C31H40ClN5O3S
